US06573270B1
ethyl 2-[4-({[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]amino}sulfonyl)phenyl]-2-methylpropanoate
Solid potassium carbonate (290 mg) was added at room temperature to a solution of impure ethyl 2-{4-[([3-[2-(acetyloxy)ethoxy]-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-5-yl]{[4-(2-ethoxy-1,1-dimethyl-2-oxoethyl)phenyl]sulfonyl}amino)sulfonyl]phenyl}-2-methylpropanoate (Preparation 51) in a mixture of methanol (3 ml) and dichloromethane (3 ml). The reaction was left overnight, then an aqueous saturated solution of ammonium chloride (10 ml) was added. The aqueous phase was acidified by the addition of an aqueous solution of HCl (1N, few drops), the phases were separated and the aqueous phase was extracted with dichloromethane (2×10 ml). The organic fraction was dried over sodium sulfate, concentrated under reduced pressure, and the residue was purified by column chromatography (silica, 3.5 g) eluted with hexane:ethyl acetate (1:1) yielding the title compound as a colourless oil (240 mg).

reactant | potassium carbonate | 290 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-{4-[([3-[2-(acetyloxy)ethoxy]-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-5-yl]{[4-(2-ethoxy-1,1-dimethyl-2-oxoethyl)phenyl]sulfonyl}amino)sulfonyl]phenyl}-2-methylpropanoate | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)C | C39H45N3O13S2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 2-[4-({[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]amino}sulfonyl)phenyl]-2-methylpropanoate | 240 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=CC=C(C=C2)C(C(=O)OCC)(C)C)C)OCCO | C25H29N3O8S
